2133-01-15 07:57:00 Physician Resident Progress Note
Chief Complaint: Insulin allergy
   24 Hour Events:
   -got novolin and worsening of hives
   Allergies:
   Insulins
   angioedema
   ras
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Integumentary (skin): Rash
   Flowsheet Data as of  [**2133-1-15**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 59 (59 - 74) bpm
   BP: 108/71(80) {100/47(56) - 131/83(96)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    880 mL
                                                                    960 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    280 mL
                                                                    360 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, rash on arms and legs
   Skin:  Warm, Rash: chest, arms, legs, back
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   375 K/uL
   12.8 g/dL
   214 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   35 mg/dL
   103 mEq/L
   135 mEq/L
   37.5 %
   13.0 K/uL
        [image002.jpg]
                             [**2133-1-14**]  07:17 PM
                             [**2133-1-15**]  04:40 AM
   WBC
   11.3
   13.0
   Hct
   37.9
   37.5
   Plt
   357
   375
   Cr
   1.6
   1.5
   Glucose
   365
   214
   Other labs: PT / PTT / INR:12.6/25.1/1.1, CK / CKMB / Troponin-T:83//,
   ALT / AST:30/24, Alk Phos / T Bili:78/0.3, Differential-Neuts:80.1 %,
   Lymph:15.1 %, Mono:4.5 %, Eos:0.2 %, Albumin:4.5 g/dL, LDH:204 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR (our read)
   -no acute cardiopulmonary process
   Assessment and Plan
 HYPERGLYCEMIA
   63yoM IDDM, cad, cri transferred from OSH with 1.5 months of urticaria
   and ?angioedema, likely from insulin preparations, admitted to [**Hospital Unit Name 10**] for
   allergy and endocrine consultation for insulin desensitization.
      Although transfer for desensitization, given pt had been on insulin
   for >10 months prior to symptoms (even though reports suggest clinical
   signs worsen after administration of insulin), differential should be
   expanded to include medication effects, infectious cause, or
   vasculitiditis.
      His lisinopril was started >1yr prior and now discontinued for 2
   days and continues to have a rash.  He has been on metoprolol for
   years, as well as asacol for his UC.  He completed a 21d course of
   doxycycline in [**Month (only) 1143**] for a tick-borne illness, even though
   serologies were negative as per patient.
      Pt lives on [**Location (un) 1446**] and has some risk factors for tick-borne
   disease, although this would not be the season for such illnesses.  He
   did recently complete a 21d course of doxycycline for presumed Lyme's
   disease.  Pt does complain of palmar "rash" and does have a hx of std
   and does have some risk factors for STDs currently, prompting for
   consideration of syphillis, hiv, and RMSP/lyme/erlichiosis.  Hepatitis
   sequelae, such as cryoglobulinemia or PAN, should also be considered,
   although not likely given normal lfts.
      Systemically, patient lacks arthritic complaints, sinus issues or
   other suggestion of vasculidites.  His family hx does not suggest a
   familial component of a rheum cause.  If above work-up (-), should
   consider rheum work-up.
   1.  hyperglycemia/insulin desensitization: glucoses >500, +ketones in
   serum.  Despite risk for further allergic rxns, need to tx with insulin
   for goal <250.
   - novolin ss (rather than humalog) w/iv benadryl
   - IgG/IgE insulin antibodies, protamine antibodies
   - email Dr. [**Last Name (STitle) **] tonight, pharmacy/endocrinology planning for
   desensitization in AM
   - diabetic diet, minimal carbs/glucose
   - IVF 100cc/hr, UOP monitoring given CRI
    2. urticaria/rash: differential as above, likely urticaria [**12-29**] to
   allergy to insulin or preparation, medication, or idiopathic
   urticaria.
   - rpr, hiv, lfts, total protein, UA, urine protein (hep serologies,
   cryocrit if abnormal lfts)
   - ttg IgA - ?dermatitis herpetiformis in association with celiac sprue
   - will assess for appropriate complement deficiency for serologic
   assessment for angioedema
   3. low tsh: assess with free T4 here
   4. cad/htn: had been on lisinopril as outpt, started in recent months.
   Plan per [**Hospital3 474**] was to discontinue this medication as possible
   inciting factor in presentation.  Will monitor MAPs while in ICU.
   - continue plavix
   - discontinue lisinopril
   - continue beta blockade
    5. hyperlipidemia:
   - cont crestor
    6. diverticulitis/UC:
   - cont asacol, vitamins
    # fEN: 1l NS, assess lytes, diabetic diet liquids with minimal carbs
   or glucoses
   # ppx: sq heparin, ppi
   # access: 1pIV
   # code: full
   # communication: patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-1-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2133-01-15 09:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Insulins
   angioedema
   ras
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-15**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 65 (59 - 74) bpm
   BP: 102/67(76) {100/47(56) - 131/83(96)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    880 mL
                                                                    960 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    280 mL
                                                                    360 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Rash: Urticarial
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   375 K/uL
   214 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   35 mg/dL
   103 mEq/L
   135 mEq/L
   37.5 %
   13.0 K/uL
        [image002.jpg]
                             [**2133-1-14**]  07:17 PM
                             [**2133-1-15**]  04:40 AM
   WBC
   11.3
   13.0
   Hct
   37.9
   37.5
   Plt
   357
   375
   Cr
   1.6
   1.5
   Glucose
   365
   214
   Other labs: PT / PTT / INR:12.6/25.1/1.1, CK / CKMB / Troponin-T:83//,
   ALT / AST:30/24, Alk Phos / T Bili:78/0.3, Differential-Neuts:80.1 %,
   Lymph:15.1 %, Mono:4.5 %, Eos:0.2 %, Albumin:4.5 g/dL, LDH:204 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR - Unremarkable
   Microbiology: None.
   Assessment and Plan
   63yoM IDDM, CAD, CRI, [**Hospital **] transferred from OSH with 1.5 months of
   urticaria and ?angioedema, likely from insulin preparations, admitted
   to [**Hospital Unit Name 10**] for allergy and endocrine consultation for insulin
   desensitization.
   #Urticaria/Rash: DDX includes med allergy (insulin, etc), infectious
   cause (STD, tick-borne illness), vasculidity, hepatitis sequelae, UC.
      Although transfer for desensitization, given pt had been on insulin
   for >10 months prior to symptoms (even though reports suggest clinical
   signs worsen after administration of insulin), differential should be
   expanded to include medication effects, infectious cause, or
   vasculitiditis.
      His lisinopril was started >1yr prior and now discontinued for 2
   days and continues to have a rash.  He has been on metoprolol for
   years, as well as asacol for his UC.  He completed a 21d course of
   doxycycline in [**Month (only) 1143**] for a tick-borne illness, even though
   serologies were negative as per patient.
      Pt lives on [**Location (un) 1446**] and has some risk factors for tick-borne
   disease, although this would not be the season for such illnesses.  He
   did recently complete a 21d course of doxycycline for presumed Lyme's
   disease.  Pt does complain of palmar "rash" and does have a hx of std
   and does have some risk factors for STDs currently, prompting for
   consideration of syphillis, hiv, and RMSP/lyme/erlichiosis.  Hepatitis
   sequelae, such as cryoglobulinemia or PAN, should also be considered,
   although not likely given normal lfts.
      Systemically, patient lacks arthritic complaints, sinus issues or
   other suggestion of vasculidites.  His family hx does not suggest a
   familial component of a rheum cause.  If above work-up (-), should
   consider rheum work-up.
   1.  hyperglycemia/insulin desensitization: glucoses >500, +ketones in
   serum.  Despite risk for further allergic rxns, need to tx with insulin
   for goal <250.
   - novolin ss (rather than humalog) w/iv benadryl
   - IgG/IgE insulin antibodies, protamine antibodies
   - email Dr. [**Last Name (STitle) **] tonight, pharmacy/endocrinology planning for
   desensitization in AM
   - diabetic diet, minimal carbs/glucose
   - IVF 100cc/hr, UOP monitoring given CRI
    2. urticaria/rash: differential as above, likely urticaria [**12-29**] to
   allergy to insulin or preparation, medication, or idiopathic
   urticaria.
   - rpr, hiv, lfts, total protein, UA, urine protein (hep serologies,
   cryocrit if abnormal lfts)
   - ttg IgA - ?dermatitis herpetiformis in association with celiac sprue
   - will assess for appropriate complement deficiency for serologic
   assessment for angioedema
   3. low tsh: assess with free T4 here
   4. cad/htn: had been on lisinopril as outpt, started in recent months.
   Plan per [**Hospital3 474**] was to discontinue this medication as possible
   inciting factor in presentation.  Will monitor MAPs while in ICU.
   - continue plavix
   - discontinue lisinopril
   - continue beta blockade
    5. hyperlipidemia:
   - cont crestor
    6. diverticulitis/UC:
   - cont asacol, vitamins
    # fEN: 1l NS, assess lytes, diabetic diet liquids with minimal carbs
   or glucoses
   # ppx: sq heparin, ppi
   # access: 1pIV
   # code: full
   # communication: patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-1-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2133-01-16 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   63yoM IDDM, CAD, CKD (baseline Cr unclear)  transferred from OSH with
   1.5 months of urticaria and ?angioedema suspected from insulin
   preparations, admitted to [**Hospital Unit Name 10**] for allergy and endocrine consultation
   for insulin desensitization.
   24 Hour Events:
   - on regular diabetic diet
   - glyburide 10 [**Hospital1 **] [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**]
   - on Novolog SS
   - HIV negative, Insulin Ab pending, C1 esterase pending
   - need to talk to [**First Name8 (NamePattern2) **] [**Doctor Last Name 1023**] case manager about getting insulin pump
   for pt. Plan is [**Last Name (un) 294**] to get him a loaner for tomorrow am
   - Derm consult- benadryl pretreatment PRN.
   -Allergy- need to r/o Thyroid dx likel Hashimotos. tx rash with
   benadryl, famotidine, singulair. Avoid steroids. Ok with insulin pump
   as well
   Allergies:
   Insulins
   angioedema
   ras
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-1-15**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-15**] 10:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-16**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 73 (64 - 84) bpm
   BP: 107/78(85) {92/53(66) - 113/80(87)} mmHg
   RR: 9 (9 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,380 mL
                                                                    100 mL
   PO:
                                                                    730 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    650 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    725 mL
   Urine:
                                                                  1,900 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -520 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   13.4 g/dL
   146 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   34 mg/dL
   104 mEq/L
   135 mEq/L
   40.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2133-1-14**]  07:17 PM
                             [**2133-1-15**]  04:40 AM
                             [**2133-1-16**]  04:21 AM
   WBC
   11.3
   13.0
   9.3
   Hct
   37.9
   37.5
   40.0
   Plt
   357
   375
   346
   Cr
   1.6
   1.5
   1.5
   Glucose
   365
   214
   146
   Other labs: PT / PTT / INR:12.0/27.8/1.0, CK / CKMB / Troponin-T:83//,
   ALT / AST:30/24, Alk Phos / T Bili:78/0.3, Differential-Neuts:64.9 %,
   Lymph:28.7 %, Mono:5.1 %, Eos:0.9 %, Albumin:4.5 g/dL, LDH:204 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   63yoM IDDM, CAD, CKD (baseline Cr unclear)  transferred from OSH with
   1.5 months of urticaria and ?angioedema suspected from insulin
   preparations, admitted to [**Hospital Unit Name 10**] for allergy and endocrine consultation
   for insulin desensitization.
   1. Rash: Multiple etiologies considered including insulin allergy vs
   allergic/rheumatologic phenomenom vs celiac sprue with dermatitis
   herpetiformes.   Time relationship between insulin administration and
   rash worsening is definitely concerning for insulin causing this
   process but still seems strange to develop suddenly after many months
   use and this is a rare phenomenom.  Endocrinology, allergy, and
   dermatology have all been consulted and are involved in his care.
   Studies pending for various other etiologies.  RPR negative.
   -F/U TTG Ab, HIV, C3 esterase deficiencies and other studies
   -F/U endocrine, dermatology, and allergy reccs (endo and allergy
   discussing insulin desens regimens)
   -Possible insulin desensitization regimen per endo and allergy
   2. DM/Hyperglycemia:  After presenting with glucoses >400 patient
   BG
s are now under better control.   Given his repeat incidents of
   hyperglycemia he does need some coverage.  Per the recommendations of
   endocrine he will be started on glyburide 5 mg PO BID and we will
   attempt to hold glucose as tolerated until we can obtain novalog (a
   formulation he has not yet received).
   - IgG/IgE insulin antibodies, protamine antibodies
   - diabetic diet, minimal carbs/glucose
   3. Low TSH: T4 normal, we will continue to monitor
   4. Cad/Htn: Continue metoprolol on home dose and clopidogrel.
   5. Hyperlipidemia:
   - cont crestor at home dose
    6. diverticulitis/UC:
   - cont asacol, vitamins
   7.  FEN: Diabetic diet advanced to full today
   8. Ppx: sq heparin, ppi
   9. Access: 1piv, attempt to establish more peripheral access
   # code: full
   # communication: patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-1-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-01-16 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Derm c/s - c/w urticaria, rec benadyrl
   Allergy c/s - eval for thryoid disease
   Received Novolog and benadryl pre-treatment without evidence of
   worsening of rash.
   Allergies:
   Insulins
   angioedema
   ras
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-1-15**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-16**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 83 (64 - 83) bpm
   BP: 105/79(84) {92/53(66) - 113/79(85)} mmHg
   RR: 13 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,380 mL
                                                                    580 mL
   PO:
                                                                    730 mL
                                                                    580 mL
   TF:
   IVF:
                                                                    650 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,125 mL
   Urine:
                                                                  1,900 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -520 mL
                                                                   -545 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   13.4 g/dL
   346 K/uL
   146 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   34 mg/dL
   104 mEq/L
   135 mEq/L
   40.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2133-1-14**]  07:17 PM
                             [**2133-1-15**]  04:40 AM
                             [**2133-1-16**]  04:21 AM
   WBC
   11.3
   13.0
   9.3
   Hct
   37.9
   37.5
   40.0
   Plt
   357
   375
   346
   Cr
   1.6
   1.5
   1.5
   Glucose
   365
   214
   146
   Other labs: PT / PTT / INR:12.0/27.8/1.0, CK / CKMB / Troponin-T:83//,
   ALT / AST:30/24, Alk Phos / T Bili:78/0.3, Differential-Neuts:64.9 %,
   Lymph:28.7 %, Mono:5.1 %, Eos:0.9 %, Albumin:4.5 g/dL, LDH:204 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: HIV negative.
   TSH 0.12, T4 1.2
   tTG-IgA negative
   RPR negative.
   Insulin Ab studies pending.
   C1 esterase pending.
   Imaging: No new imaging.
   Microbiology: No new data.
   Assessment and Plan
   63yoM IDDM, CAD, CRI, [**Hospital **] transferred from OSH with 1.5 months of
   urticaria and ?angioedema, likely from insulin preparations, admitted
   to [**Hospital Unit Name 10**] for allergy and endocrine consultation for insulin
   desensitization.
   #Urticaria/Rash: DDX includes med allergy (insulin, etc), infectious
   cause (STD, tick-borne illness), vasculitis, UC, HIV, or idiopathic.
   Most likely due to insulin allergy, but broad differential must be
   entertained.
   - F/U labs for above
   - F/U insulin Ab IgG/IgE testing
   - Follow with endocrine, allergy, and pharmacy
   - Derm consult
   - Limit any potential alergens (latex free room, etc)
   # Insulin desensitization:.
   - Desensitization per endocrine/allergy/pharmacy
   - Can try IV insulin with different carrier/formulation
   - Look into pump options so pt has constant exposure to decrease anergy
   #DM/Hyperglycemia: + Ketones with allergy to insulin
   - Glyburide/Novolog in interim
   - Diabetic diet, minimal carbs/glucose
   - IVF 100cc/hr, UOP monitoring
   #CRI: At baseline.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-1-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes